US07572809B2
A mixture of 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid isopropyl ester (0.7 g), 1M KOH (10 ml) and methanol (30 ml) was stirred at room temperature overnight, and then it was concentrated. The residue was acidified to pH=1 by 1M HCl and yielded 0.42 g of crude 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid. LC-MS: 299 (MH+).

reactant | 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid isopropyl ester | 0.7 g | C(C)(C)OC(=O)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C18H20N4O3
reactant | KOH | 1M, 10 ml | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid | 0.42 g | COC=1C=C2C=C(N=C(C2=CC1)C(=O)O)NC1=NNC(=C1)C | C15H14N4O3
